US04321194
3-(2-Cyanoaziridin-1-yl)-acrolein
ethyl propiolate: ethyl 3-(2-cyanoaziridin-1-yl)-acrylate; oily substance, purified with a silica gel column; yield 24% of theory.

reactant | ethyl propiolate | C(C#C)(=O)OCC | C5H6O2
reactant | ethyl 3-(2-cyanoaziridin-1-yl)-acrylate | C(#N)C1N(C1)C=CC(=O)OCC | C8H10N2O2
product | 3-(2-Cyanoaziridin-1-yl)-acrolein | yield 24% | C(#N)C1N(C1)C=CC=O | C6H6N2O
